US07612114B2
Synthesized from 5-methoxy-2-(6-methoxybenzo[b]thiophen-2-yl)phenylamine and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride according to an analogous synthetic method to Example 114, [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxybenzo[b]thiophen-2-yl)phenyl]amine (231 mg) was used according to an analogous synthetic method to Example 36 to provide ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxybenzo[b]thiophen-2-yl)phenyl]amine (195 mg). The total amount of this compound was used according to an analogous synthetic method to Example 111 to provide the title compound (170 mg).

reactant | 5-methoxy-2-(6-methoxybenzo[b]thiophen-2-yl)phenylamine | COC=1C=CC(=C(C1)N)C1=CC2=C(S1)C=C(C=C2)OC | C16H15NO2S
reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoic acid hydrochloride | Cl.FC=1C=C(C(=O)O)C=CC1OCCN1CCCCC1
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxybenzo[b]thiophen-2-yl)phenyl]amine | 231 mg | FC=1C=C(CNC2=C(C=CC(=C2)OC)C2=CC3=C(S2)C=C(C=C3)OC)C=CC1OCCN1CCCCC1 | C30H33FN2O3S
product | ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][5-methoxy-2-(6-methoxybenzo[b]thiophen-2-yl)phenyl]amine | 195 mg | C(C)N(C1=C(C=CC(=C1)OC)C1=CC2=C(S1)C=C(C=C2)OC)CC2=CC(=C(C=C2)OCCN2CCCCC2)F | C32H37FN2O3S
